US08138175B2
A) 2-Chloro-4-iodo-1-trifluoromethyl-benzene
To a solution of 3-chloro-4-(trifluoromethyl)aniline (450 mg, 2.30 mmol) and toluene 4-sulfonic acid (1.19 g, 6.92 mmol) in CH3CN (10 mL) was added a solution of potassium iodide (955 mg, 5.76 mmol) and sodium nitrite (318 mg, 4.61 mmol) in water (1.8 mL) over 15 min at 10° C., then after 20 min the reaction mixture was poured onto water, neutralized with sat. aq. NaHCO3 solution, treated with 2 M aq. sodium thiosulfate solution (6 mL), and extracted with EtOAc. The organic layer was dried (MgSO4), filtered, and evaporated to afford the title compound (517 mg) as a light brown oil, which was directly used in the next step.

reactant | 3-chloro-4-(trifluoromethyl)aniline | 2.30 mmol, 450 mg | ClC=1C=C(N)C=CC1C(F)(F)F | C7H5ClF3N
reactant | toluene 4-sulfonic acid | 6.92 mmol, 1.19 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium iodide | 5.76 mmol, 955 mg | [I-].[K+]
reactant | sodium nitrite | 4.61 mmol, 318 mg | N(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | sodium thiosulfate | 2 M, 6 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | water | 1.8 mL | O | H2O
product | 2-Chloro-4-iodo-1-trifluoromethyl-benzene | 517 mg | ClC1=C(C=CC(=C1)I)C(F)(F)F | C7H3ClF3I
